US04347246
C. 2-Acetylthio-3-methoxybenzoic acid
A solution of 2-mercapto-3-methoxybenzoic acid (14.6 g, 79 mmol), acetic anhydride (9.7 g, 95 mmol) and glacial acetic acid (35 ml) was refluxed 15 minutes, then cooled and poured into dilute hydrochloric acid.

reactant | 2-mercapto-3-methoxybenzoic acid | 79 mmol, 14.6 g | SC1=C(C(=O)O)C=CC=C1OC | C8H8O3S
reactant | acetic anhydride | 95 mmol, 9.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2-Acetylthio-3-methoxybenzoic acid | C(C)(=O)SC1=C(C(=O)O)C=CC=C1OC | C10H10O4S
